US07741327B2
A solution of {(S)-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-3-methyl-butyl}-carbamic acid t-butyl ester (4.15 g) in dichloromethane (8 mL) was treated with trifluoroacetic acid (8 mL) and stirred at room temperature for 1 h. At this time the mixture was concentrated in vacuo and the residue dissolved in methanol (10 mL) and treated with hydrogen chloride gas for 2 min. The mixture was concentrated in vacuo and the residue was dried under high vacuum. The solid obtained was triturated with diethyl ether which afforded (S)-2-amino-4-methyl-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]amide hydrochloride (3.86 g, 100%) as a white solid.

reactant | {(S)-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-3-methyl-butyl}-carbamic acid t-butyl ester | 4.15 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(NC1=NN(C=C1)CC(C)(C)O)=O)=O | C18H32N4O4
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (S)-2-amino-4-methyl-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]amide hydrochloride | 3.86 g, 100% | Cl.OC(CN1N=C(C=C1)NC([C@H](CC(C)C)N)=O)(C)C | InChI=1S/C13H24N4O2.ClH/c1-9(2)7-10(14)12(18)15-11-5-6-17(16-11)8-13(3,4)19;/h5-6,9-10,19H,7-8,14H2,1-4H3,(H,15,16,18);1H/t10-;/m0./s1
